US07683084B2
N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]-2-pyridin-3-ylpyrrolidine-1-carboxamide
A solution of (Z)-3-methyl-1-(5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydrobenzo[b][1,4]dioxin-6-yl)thiazol-2(3H)-ylidenecarbamoyl)-1H-imidazol-3-ium iodide core (Example 81A, 0.88 mL of 0.16 M in acetonitrile, 80 mg, 0.1 mmol) was added to a 20 mL vial, followed by N,N-diisopropylethylamine (0.88 mL of 0.2 M in acetonitrile, 24 mg, 0.13 mmol). 3-(Pyrrolidin-2-yl)pyridine (0.79 mL of 0.2 M in acetonitrile, 0.11 mmol) was added last. The resulting mixture was shaken at room temperature overnight. It was then concentrated in vacuo, and the residue was taken up in 1:1 MeOH/DMSO and purified by reverse phase HPLC (acetonitrile/water 0.1% TFA gradient elution method) to give the titled compound. 1H NMR (300 MHz, DMSO-d6/D2O) δ ppm 1.74-1.93 (3H) 2.12-2.21 (3H) 2.33-2.44 (1H) 3.50-3.68 (2H) 4.95-5.07 (1H) 6.91-7.06 (1H) 7.21-7.59 (3H) 7.70-7.91 (1H) 8.33-8.42 (1H) 8.44-8.52 (1H); MS (ESI+) m/z 495 (M+H)+.

reactant | (Z)-3-methyl-1-(5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydrobenzo[b][1,4]dioxin-6-yl)thiazol-2(3H)-ylidenecarbamoyl)-1H-imidazol-3-ium iodide | [I-].C[N+]1=CN(C=C1)C(\N=C\1/SC(=CN1C1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)C)=O
reactant | N,N-diisopropylethylamine | 0.13 mmol, 0.2 M, 0.88 mL, 24 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(Pyrrolidin-2-yl)pyridine | 0.11 mmol, 0.2 M, 0.79 mL | N1C(CCC1)C=1C=NC=CC1 | C9H12N2
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(2Z)-5-methyl-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-thiazol-2(3H)-ylidene]-2-pyridin-3-ylpyrrolidine-1-carboxamide | CC1=CN(/C(/S1)=N/C(=O)N1C(CCC1)C=1C=NC=CC1)C1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C22H18F4N4O3S
